US04213905
A process of preparing sodium 1-methyl-5-(p-toluoyl)- pyrrole-2-acetic acid which comprises reacting 1-methyl-5- (p-toluoyl)pyrrole-2-acetonitrile with ethyl mercaptan in the presence of hydrogen chloride in an anhydrous aprotic organic solvent under an inert atmosphere at or below 10° C. to yield ethyl 1-methyl-5-(p-toluoyl)pyrrole-2-thiolacetate and then hydrolyzing said thiolacetate by treatment with aqueous sodium hydroxide.

reactant | sodium 1-methyl-5-(p-toluoyl)- pyrrole-2-acetic acid | CN1C(=CC=C1C(=O)C1=CC=C(C=C1)C)CC(=O)O.[Na]
reactant | 1-methyl-5- (p-toluoyl)pyrrole-2-acetonitrile | CN1C(=CC=C1C(=O)C1=CC=C(C=C1)C)CC#N | C15H14N2O
reactant | ethyl mercaptan | C(C)S | C2H6S
reactant | hydrogen chloride | Cl | ClH
product | ethyl 1-methyl-5-(p-toluoyl)pyrrole 2-thiolacetate | C(C)C=1N(C(=CC1)C(=O)C1=CC=C(C=C1)C)C.S1C(=CC=C1)CC(=O)[O-] | InChI=1S/C15H17NO.C6H6O2S/c1-4-13-9-10-14(16(13)3)15(17)12-7-5-11(2)6-8-12;7-6(8)4-5-2-1-3-9-5/h5-10H,4H2,1-3H3;1-3H,4H2,(H,7,8)/p-1
